* Z:\home\steve\pcbs\DasBlinkInput\spice\TransimpedenceAmplifier-01.asc
V1 V+ 0 3
V2 0 V- 0
XU1 N003 N001 V+ V- N002 level.2 Avol=100k GBW=1Meg Slew=500k ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
I1 N001 N006 PULSE(0 100n .1 .01 .01 .2 .4 4)
R1 N002 N001 1MEG
R2 0 N002 10K
I2 N003 N006 100p
R3 N006 V+ 10K
R4 0 N006 10K
XU2 N002 N004 V+ V- N005 level.2 Avol=100k GBW=1Meg Slew=500k ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R5 N004 V+ 10K
R6 0 N004 10K
R7 0 N005 10K
.tran 1
.lib UniversalOpamps2.sub
.backanno
.end
